US05064863
A solution of 342 mg of p-[(R)-3-[[(RS)-2-hydroxy-3-phenoxypropyl]amino]-butyl]benzamide in 5 ml of methanol was treated with 44 mg of hydrochloric acid gas in 1 ml of methanol. The solution was concentrated to 3 ml and treated with 3 ml of ether. After standing at 0° for several hours, the separated crystals were removed by filtration under suction and recrystallized from methanolether. The p-[(R)-3-[[(RS)-2-hydroxy-3-phenoxypropyl]amino]butyl]-benzamide hydrochloride obtained melted at 156°-158°, [α]D20 =+12° (c=0.7 in methanol), ε234 =13410, ε222 =14970.

reactant | p-[(R)-3-[[(RS)-2-hydroxy-3-phenoxypropyl]amino]-butyl]benzamide | 342 mg | OC(CN[C@@H](CCC1=CC=C(C(=O)N)C=C1)C)COC1=CC=CC=C1 | C20H26N2O3
reactant | hydrochloric acid | 44 mg | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
product | p-[(R)-3-[[(RS)-2-hydroxy-3-phenoxypropyl]amino]butyl]-benzamide hydrochloride | Cl.OC(CN[C@@H](CCC1=CC=C(C(=O)N)C=C1)C)COC1=CC=CC=C1 | InChI=1S/C20H26N2O3.ClH/c1-15(7-8-16-9-11-17(12-10-16)20(21)24)22-13-18(23)14-25-19-5-3-2-4-6-19;/h2-6,9-12,15,18,22-23H,7-8,13-14H2,1H3,(H2,21,24);1H/t15-,18?;/m1./s1
